US20010044452A1
4-(Pyrrolidin-1-yl)-1-[5-(4-pyrrolidin-1-ylbenzoyl)-1-methyl-1H-pyrrol-3-yl]-butanone hydrochloride
A 10 g (0.03 mole) sample of 4-chloro-1-[5-(4-chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-butanone was added to 18 mL (0.216 mole) of pyrrolidine and the mixture heated under reflux for 4 h. The solvent was evaporated in vacuo and the residue triturated with Et2O. The mixture was filtered and the filtrate treated with ethereal HCl to give the salt. Recrystallization from CH3CN gave 1.18 g ( 9% yield) of a yellow solid: mp 203-206° C. 1H NMR (Me2SO-d6) d 1.85-2.05 (m, 10 H); 2.87-3.05 (m, 4 H); 3.1-3.15 (m, 2 H); 3.3-3.4 (m, 4 H); 3.45-3.55 (broad s, 2 H); 3.9 (s, 3H); 6.62 (d, 2 H); 6.96 (s,1 H); 7.72 (d, 2 H); 7.92 (s, 1 H). Anal Calcd for C24H31 N3O2-HCl-0.4CH3CN: C, 66.73; H, 7.50; N,10.67. Found: C,66.34; H,7.43; N, 10,33.

reactant | 4-chloro-1-[5-(4-chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-butanone | ClCCC(CC1=CN(C(=C1)C(C1=CC=C(C=C1)Cl)=O)C)=O | C16H15Cl2NO2
reactant | pyrrolidine | 0.216 mole, 18 mL | N1CCCC1 | C4H9N
product | 4-(Pyrrolidin-1-yl)-1-[5-(4-pyrrolidin-1-ylbenzoyl)-1-methyl-1H-pyrrol-3-yl]-butanone hydrochloride | 1.18 g, 9% yield | Cl.N1(CCCC1)CCC(CC1=CN(C(=C1)C(C1=CC=C(C=C1)N1CCCC1)=O)C)=O | InChI=1S/C24H31N3O2.ClH/c1-25-18-19(16-22(28)10-15-26-11-2-3-12-26)17-23(25)24(29)20-6-8-21(9-7-20)27-13-4-5-14-27;/h6-9,17-18H,2-5,10-16H2,1H3;1H
